US07199124B2
N-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]-2-thiophenecarboxamide
To a solution of 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine (0.50 g, 1.7 mmol) in tetrahydrofuran (10 mL) was added 2-thiophenecarbonyl chloride (0.36 mL, 3.4 mmol), and triethylamine (0.52 mL, 3.7 mmol) was added to the obtained mixture. The reaction mixture was stirred at room temperature for 10 min. Saturated aqueous sodium hydrogen carbonate solution was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried and concentrated. The residue was dissolved in conc. hydrochloric acid (5 mL) and the mixture was stirred at 40° C. for 14 hrs. The reaction mixture was neutralized with aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was dried and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=4:1) and crystallized from isopropyl ether-hexane to give the title compound (0.56 g, yield 82%).

reactant | 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 1.7 mmol, 0.50 g | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)N | C17H17N3S
reactant | 2-thiophenecarbonyl chloride | 3.4 mmol, 0.36 mL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | triethylamine | 3.7 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]-2-thiophenecarboxamide | 0.56 g, yield 82% | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)NC(=O)C=1SC=CC1 | C22H19N3OS2
